### ISSUE TITLE
`induction_eliminator` and `cases_eliminator` only key on the head symbol

### ISSUE THREAD

**Issue by eric-wieser** [leanprover/lean4#4577]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [ ] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [ ] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [ ] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

The `@[induction_eliminator]` and `@[cases_eliminator]` attribute cannot be used to register eliminators for two different types with the same head symbol.

### Context

This is necessary to register eliminators for quotients of additive and multiplicative groups in Mathlib, where both have head symbol `HasQuotient.quotient` (leanprover-community/mathlib#12605)

### Steps to Reproduce

1. Run the following:
```lean
inductive Foo : Bool → Type
  | ofTrue (x : Nat) : Foo true
  | ofFalse (x : Nat) : Foo false

@[elab_as_elim]
theorem Foo.true_rec {P : Foo true → Prop} (h : ∀ x, P (id <| .ofTrue x))
    (x : Foo true) : P x := by
  cases x; apply h

@[elab_as_elim]
theorem Foo.false_rec {P : Foo false → Prop} (h : ∀ x, P (id <| .ofFalse x))
    (x : Foo false) : P x := by
  cases x; apply h

example (x : Foo true) : x = x := by
  cases x using Foo.true_rec -- works
  sorry

example (x : Foo false) : x = x := by
  cases x using Foo.false_rec -- works
  sorry

attribute [cases_eliminator] Foo.true_rec Foo.false_rec

example (x : Foo true) : x = x := by
  cases x -- fails, tried to use `Foo.false_rec`
  sorry

example (x : Foo false) : x = x := by
  cases x --works
  sorry
```

**Expected behavior:** Both `false_rec` and `true_rec` can be registered, and the correct eliminator is chosen based on the full type of `x`

**Actual behavior:** The last-registered eliminator wins, causes the penultimate example to fail as the eliminator does not actually match the type of the major premise.

### Versions

4.9.0-rc3

### Additional Information

[Additional information, configuration or data that might be necessary to reproduce the issue]

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by robertmaxton42** [comment]
Here's another manifestation of the same issue:

```lean
inductive Zigzag where | even (n : Nat) | odd (n : Nat)

namespace Zigzag

instance : LE Zigzag where
  le 
  | even m, even n | even m, odd n | odd m, odd n => m ≤ n
  | odd m, even n => m < n

theorem le_def (x y : Zigzag) : (x ≤ y) = 
  match x, y with
  | even m, even n | even m, odd n | odd m, odd n => m ≤ n
  | odd m, even n => m < n := rfl


@[elab_as_elim, cases_eliminator]
theorem le_induction {motive : {x y : Zigzag} → x ≤ y → Prop}
    (even_even : ∀ {m n} (h : m ≤ n), motive (le_def (even m) (even n) |>.mpr h))
    (odd_odd : ∀ {m n} (h : m ≤ n), motive (le_def (odd m) (odd n) |>.mpr h))
    (even_odd : ∀ {m n} (h : m ≤ n), motive (le_def (even m) (odd n) |>.mpr h))
    (odd_even : ∀ {m n} (h : m < n), motive (le_def (odd m) (even n) |>.mpr h)) :
    ∀ {x y} (h : x ≤ y), motive h
  | even _, even _, h => even_even h
  | odd _, odd _, h => odd_odd h
  | even _, odd _, h => even_odd h
  | odd _, even _, h => odd_even h

-- Positive example: `cases` should invoke `le_induction` automatically on hypotheses of type `@LE Zigzag _ _`
example {x y : Zigzag} (h : x ≤ y) : True := by
  cases h <;> trivial -- works

-- Negative example: applying `cases_eliminator` should *not* prevent `cases` from being used on hypotheses of
-- type `@LE α _ _` for any other `α`
example {x y : Nat} (h : x ≤ y) : True := by
  cases h <;> trivial
/- Invalid target:
  h
has type
  x ≤ y
but is expected to have type
  ?x ≤ ?y -/
```
